US05576324
5-Methyl-2-(L-prolylaminomethyl)-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-(Carbobenzyloxy-L-prolyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1.04 g, 2.25 mmol) was dissolved in dimethylformamide (130 ml). To the obtained solution, 10% palladium-on-carbon (1.04 g) was added, followed by stirring at room temperature for 4 hours in the atmosphere of hydrogen. The reaction mixture was filtered, and the filtrate was condensed under reduced pressure. The resultant residue was dissolved in methanol (65 ml), to which 1.37 N-HCl--methanol (1.81 ml) was added. The mixture was condensed under reduced pressure. The resultant residue was submitted to a recrystallizing procedure using methanol--ether to obtain 807 mg of the title compound as pale yellow powdery crystals (98.6%).

reactant | 2-(Carbobenzyloxy-L-prolyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 2.25 mmol, 1.04 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NCC2CC=3C(=C4C=CC(NC4=C(C3)C)=O)O2)CCC1 | C26H27N3O5
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | methanol | 65 ml | CO | CH4O
catalyst | palladium-on-carbon | 1.04 g | [Pd] | Pd
product | 5-Methyl-2-(L-prolylaminomethyl)-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 807 mg, 98.6% | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CNC([C@H]2NCCC2)=O | C18H21N3O3
